US06420566B2
A suspension of 0.5 g of N-(tert-butyl)-N′-[2-hydroxy-1-(3-bromophenyl)ethyl]thiourea in 3.8 cm3 of 6N hydrochloric acid is heated with stirring at a temperature in the region of 100° C. for 5 hours 30 minutes. The reaction medium is then cooled to a temperature in the region of 20° C. A white precipitate forms, which is filtered off after stirring for 30 minutes. The filter cake is rinsed with diethyl ether and then dried in an oven under reduced pressure (10 Pa) at a temperature in the region of 60° C., after which it is purified by chromatography, under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-63μ; diameter 1.5 cm; height 20 cm), eluting with a dichloromethane/methanol mixture (90/10 by volume). The fractions containing the expected product are collected. These fractions are combined and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.1 g of (4RS)-4-(3-bromophenyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride is obtained in the form of a white solid. (Rf=0.26 in a 90/10 by volume dichloromethane/methanol mixture, on a Merck 60F254R silica plate). [1H NMR spectrum (250 MHz, d6-(CD3)SO, δ in ppm): 3.45 (dd, J=14 and 8 Hz: 1H); 3.97 (dd, J=14 and 8.5 Hz : 1H); 5.42 (dd, J=8.5 and 8 Hz: 1H); from 7.35 to 7.55 (mt: 2H); from 7.55 to 7.75 (mt: 2H); from 9.10 to 10.90 (broad unres. mult.: 1H)].

reactant | N-(tert-butyl)-N′-[2-hydroxy-1-(3-bromophenyl)ethyl]thiourea | 0.5 g | C(C)(C)(C)NC(=S)NC(CO)C1=CC(=CC=C1)Br | C13H19BrN2OS
reactant | hydrochloric acid | 6N, 3.8 cm3 | Cl | ClH
product | (4RS)-4-(3-bromophenyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 0.1 g | Cl.BrC=1C=C(C=CC1)C1N=C(SC1)N | InChI=1S/C9H9BrN2S.ClH/c10-7-3-1-2-6(4-7)8-5-13-9(11)12-8;/h1-4,8H,5H2,(H2,11,12);1H
